US08835428B2
3-Methyl-2-(3-(4-(3-(4-(trifluoromethyl)phenyl)ureido)phenyl) isoxazole-5-carboxamido)butanoic acid
To Methyl 3-methyl-2-(3-(4-(3-(4-(trifluoromethyl)phenyl)ureido)phenyl)isoxazole-5-carboxamido)butanoate (250 mg) dissolved in THF (5 ml) was added 1 M aqueous solution of Lithium hydroxide monohydrate (1 ml) and stirred at RT for 14 h. The reaction mixture was acidified with dilute HCl and extracted with EtOAc. Organic layer was separated, dried over. Na2SO4 and concentrated under reduced pressure to get off white solid which was crystallized from EtOAc to yield 185 mg (76%) white solid. MS (ES+): m/z 491 (M+1); 1H NMR (DMSO-d6, 300 MHz): δ 12.82 (bs, 1H), 9.22 (s, 1H), 9.12 (s, 1H), 8.93 (d, 1H), 7.85 (d, 2H), 7.68 (s, 1H), 7.65 (d, 2H), 7.61 (d, 2H), 7.56 (d, 2H), 4.26 (m, 1H), 2.21 (m, 1H), 0.95 (d, 6H).

reactant | Methyl 3-methyl-2-(3-(4-(3-(4-(trifluoromethyl)phenyl)ureido)phenyl)isoxazole-5-carboxamido)butanoate | 250 mg | CC(C(C(=O)OC)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F)C | C24H23F3N4O5
reactant | Lithium hydroxide monohydrate | 1 ml | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-Methyl-2-(3-(4-(3-(4-(trifluoromethyl)phenyl)ureido)phenyl) isoxazole-5-carboxamido)butanoic acid | 185 mg, 76% | CC(C(C(=O)O)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F)C | C23H21F3N4O5
